US07825256B2
2-(3-Imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (359 mg, 1.01 mmol) was dissolved in dioxane (2 mL) and 6M HCl (aq) (2 mL). The reaction vessel was sealed and heated to 100° C. for 1 h. The reaction was allowed to return to room temperature while standing overnight. The reaction mixture was transferred to a separatory funnel and washed with 1M NaOH (30 mL). The aqueous layer was back extracted with DCM (50 mL). The organic layers were combined, dried over Na2SO4 to and concentrated in vacuo to afford 179 mg (80.4%) of 3-imidazol-1-yl-5-pyrrolidin-2-yl-[1,2,4]thiadiazole. [M+H]+ 221.87.

reactant | 2-(3-Imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.01 mmol, 359 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC(=NS1)N1C=NC=C1 | C14H19N5O2S
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 6M, 2 mL | Cl | ClH
product | 3-imidazol-1-yl-5-pyrrolidin-2-yl-[1,2,4]thiadiazole | 179 mg, 80.4% | N1(C=NC=C1)C1=NSC(=N1)C1NCCC1 | C9H11N5S
